US07790709B2
Preparation of (E)-3-(6-Amino-5-morpholin-4-ylmethyl-pyridin-3-yl)-N-(3,4-dimethyl-thieno[2,3-b]thiophen-2-ylmethyl)-N-methyl-acrylamide hydrochloride
According the procedure of Example 1, except substituting (E)-3-(6-amino-5-morpholin-4-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting (3,4-dimethyl-thieno[2,3-b]thiophen-2-ylmethyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound was prepared (70 mg, 13%) as a light, yellow powder and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 8.63 (s, 1H), 8.40 (s, 1H), 7.51 (d, J=15.1 Hz, 1H), 7.20-7.12 (m 2H), 5.00-4.77 (m, 2H), 4.40-4.32 (m, 2H), 3.95-3.15 (m, 10H), 3.13 (s, 3H), 2.90 (s, 1H), 2.46 (s, 3H), 2.45 (s, 3H); MS (ESI) m/e 457 (M+H)+.

reactant | (E)-3-(6-amino-5-morpholin-4-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCOCC1
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (3,4-dimethyl-thieno[2,3-b]thiophen-2-ylmethyl)methylamine | CC1=C(SC=2SC=C(C21)C)CNC | C10H13NS2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-(6-Amino-5-morpholin-4-ylmethyl-pyridin-3-yl)-N-(3,4-dimethyl-thieno[2,3-b]thiophen-2-ylmethyl)-N-methyl-acrylamide hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(C)CC1=C(C2=C(SC=C2C)S1)C)CN1CCOCC1 | InChI=1S/C23H28N4O2S2.ClH/c1-15-14-30-23-21(15)16(2)19(31-23)13-26(3)20(28)5-4-17-10-18(22(24)25-11-17)12-27-6-8-29-9-7-27;/h4-5,10-11,14H,6-9,12-13H2,1-3H3,(H2,24,25);1H/b5-4+;
